US07074800B1
Using an analogous procedure to that described in Example 248, 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (268 mg, 0.833 mmol), (prepared as described for the starting material in Example 9), was reacted with 6-fluoro-5-hydroxy-2-methylindole (165 mg, 1 mmol) in DMF (3.5 ml) containing potassium carbonate (173 mg, 1.25 mmol) to give 4-(6-fluoro-2-methylindol-5-yloxy)-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (215 mg, 57%).

reactant | 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 0.833 mmol, 268 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | 6-fluoro-5-hydroxy-2-methylindole | 1 mmol, 165 mg | FC1=C(C=C2C=C(NC2=C1)C)O | C9H8FNO
reactant | potassium carbonate | 1.25 mmol, 173 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
product | 4-(6-fluoro-2-methylindol-5-yloxy)-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 215 mg, 57% | FC1=C(C=C2C=C(NC2=C1)C)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C25H27FN4O3
